US07101886B2
4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine was diluted to 0.3 M with anhydrous pyridine, then delivered to an 8 mL vial via pipette (0.225 mmol). Propane-1-sulfonyl chloride was diluted to 1.0 M with anhydrous dichloromethane, and added to the amine solution at rt (0.40 mmol). The solution was stirred overnight at 45° C. To the reaction mixture was added polyamine scavenging resin (0.30 mmol). The solution was stirred overnight at 45° C., then filtered into an 8 mL vial. The filtrate was evaluated by MS and concentrated via HT-12 GeneVac. Crude was purified by HPLC (30×100 mm ODS-A C(18) 5u column). Propane-1-sulfonic acid {4-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenyl}-amide was isolated in 100% purity @ 254 nm; LCMS (APCI): 445 [M+H]+

reactant | 4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)N | C19H22N4S
reactant | Propane-1-sulfonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Propane-1-sulfonic acid {4-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenyl}-amide | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)NS(=O)(=O)CCC | C22H28N4O2S2
